US05362744
N'-[2,6-Bis(1-methylethyl)phenyl]-N-[2-(8-hydroxyoctyl)-2H-tetrazol-5-yl]-N-phenyl-urea
To a stirred, room temperature solution of (±)N'-[2,6-bis(1-methylethyl)phenyl-N-phenyl-N-[2-[8-[(tetrahydro-2H-pyran-2-yl)oxy]octyl]-2H-tetrazol-5-yl]-urea (2.1600 g, 0.0037449 mol) in methanol (20 mL) was added dropwise water (1.0 mL) and 4-methylbenzenesulfonic acid monohydrate (0.0594 g, 0.000312 mol), and the mixture was stirred. After 46 hours the mixture was rotoevaporated, and the residue was chromatographed on silica gel (230 g, 230-400 mesh) using PET ether-diethyl ether (1:2, 15×200 mL) as eluent. Fractions containing product were rotoevaporated from dichloromethane to an oil. The oil was dried in vacuo (95° C., 15 min; 17h, 25° C.) to give the title compound, yield 1.482 g (80%). 1H NMR (CDCl3): δ 9.2 (br s, 1H), 7.5 (t, 2H), 7.4 (m, 3H), 7.3 (d, 1H), 7.2 (d, 2H), 4.5 (t, 2H), 3.6 (t, 2H), 3.2 (septet, 2H), 2.0 (m, 2H), 1.5 (m, 4H), 1.3 (m, 6H), 1.2 (d, 12H).

reactant | 2,6-bis(1-methylethyl)phenyl-N-phenyl-N-[2-[8-[(tetrahydro-2H-pyran-2-yl)oxy]octyl]-2H-tetrazol-5-yl]-urea | 0.0037449 mol, 2.1600 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(N(C=1N=NN(N1)CCCCCCCCOC1OCCCC1)C1=CC=CC=C1)=O | C33H48N6O3
reactant | water | 1.0 mL | O | H2O
reactant | 4-methylbenzenesulfonic acid monohydrate | 0.000312 mol, 0.0594 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | methanol | 20 mL | CO | CH4O
product | N'-[2,6-Bis(1-methylethyl)phenyl]-N-[2-(8-hydroxyoctyl)-2H-tetrazol-5-yl]-N-phenyl-urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=CC=C1)C=1N=NN(N1)CCCCCCCCO)=O | C28H40N6O2
